US04987235
Preparation of 5,6-dihydroxyisoindoline hydrobromide
360 ml of 47% hydrobromic acid, 45 m1 of phenol and 60 ml of propionic acid were added to 60 g (0.18 mol) of 5,6-dimethoxy-2-p-tolylsulfonylisoindoline, and the mixture was refluxed for 4 hours under vigorous stirring under a nitrogen atmosphere. The reaction solution was evaporated under reduced pressure to dryness, and 120 ml of 47% hydrobromic acid was added to the residue. The mixture was again refluxed under a nitrogen atmosphere for 3 hours. The reaction solution was cooled, and then 300 ml of water and 300 ml of chloroform were added thereto. The water layer was separated, and subjected to active carbon treatment. The water layer was evaporated under reduced pressure to dryness, and the crystalline residue was washed with ether/ethanol (1/1) to obtain 25.62 g (yield: 61.4%) of the above identified compound.

reactant | hydrobromic acid | 360 ml | Br | BrH
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 5,6-dimethoxy-2-p-tolylsulfonylisoindoline | 0.18 mol, 60 g | COC=1C=C2CN(CC2=CC1OC)S(=O)(=O)C1=CC=C(C=C1)C | C17H19NO4S
solvent | propionic acid | 60 ml | C(CC)(=O)O | C3H6O2
product | 5,6-dihydroxyisoindoline hydrobromide | yield: 61.4% | Br.OC=1C=C2CNCC2=CC1O | InChI=1S/C8H9NO2.BrH/c10-7-1-5-3-9-4-6(5)2-8(7)11;/h1-2,9-11H,3-4H2;1H
